US09334366B2
15 g (84.2 mmol) of 4-hydroxycinnamic acid methyl ester, 14 g (101 mmol) of 3-bromo-1-propanol, 23.4 g of K2CO3 are dissolved in 90 mL of NMP. The solution is heated up to 80° C. and stirred for 20 hours. Then, the reaction mixture is cooled down to room temperature and carefully acidified with 1N HCl solution. The solution is extracted with ethylacetate. The organic phase is dried over sodium sulfate, filtrated and concentrated under reduced pressure. Chromatography of the residue on silica gel using hexane:ethyl acetate 7:3 as eluent yielded 5.8 g of methyl (2E)-3-[4-(3-hydroxypropoxy)phenyl]prop-2-enoate as a white solid.

reactant | 4-hydroxycinnamic acid methyl ester | 84.2 mmol, 15 g | COC(C=CC1=CC=C(C=C1)O)=O | C10H10O3
reactant | 3-bromo-1-propanol | 101 mmol, 14 g | BrCCCO | C3H7BrO
reactant | K2CO3 | 23.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | NMP | 90 mL | CN1CCCC1=O | C5H9NO
product | methyl (2E)-3-[4-(3-hydroxypropoxy)phenyl]prop-2-enoate | 5.8 g | OCCCOC1=CC=C(C=C1)/C=C/C(=O)OC | C13H16O4
